US07781591B2
To a stirred solution of 4-[(7-chloro-4-methyl-1H-indol-5-yl)amino]-5-iodonicotinonitrile (405 mg, 1 mmol) in DMF (7 mL) was added 2-(tributylstannyl)-1-benzofuran-5-carbaldehyde (609 mg, 1.4 mmol) and tetrakis(triphenylphosphine)palladium(0) (110 mg, 0.1 mmol) under nitrogen atmosphere, the reaction mixture was heated at 110° C. for 1.5 h and cooled to room temperature and ethyl acetate was added to the resulting mixture. The organic phase was washed with water, saturated aqueous sodium chloride, dried over magnesium sulfate and concentrated and the residue was purified by flash column chromatography (ethyl acetate/hexane) to give 4-[(7-chloro-4-methyl-1H-indol-5-yl)amino]-5-(5-formyl-1-benzofuran-2-yl)nicotinonitrile as a yellow solid (351 mg, 82%). HPLC retention time: 12.4 min.(g); and MS: 427.3 (M+H).

reactant | 4-[(7-chloro-4-methyl-1H-indol-5-yl)amino]-5-iodonicotinonitrile | 1 mmol, 405 mg | ClC=1C=C(C(=C2C=CNC12)C)NC1=C(C=NC=C1C#N)I | C15H10ClIN4
reactant | 2-(tributylstannyl)-1-benzofuran-5-carbaldehyde | 1.4 mmol, 609 mg | C(CCC)[Sn](C=1OC2=C(C1)C=C(C=C2)C=O)(CCCC)CCCC
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | DMF | 7 mL | CN(C)C=O | C3H7NO
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.1 mmol, 110 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4-[(7-chloro-4-methyl-1H-indol-5-yl)amino]-5-(5-formyl-1-benzofuran-2-yl)nicotinonitrile | 351 mg, 82% | ClC=1C=C(C(=C2C=CNC12)C)NC1=C(C=NC=C1C#N)C=1OC2=C(C1)C=C(C=C2)C=O | C24H15ClN4O2
